US05589492
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-propylthio)propanoic Acid
The title compound, mp 143.9°-144.8° C. (toluene), was prepared from methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-propylthio)propanoate by a procedure similar to that describe in Example 24.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-propylthio)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)SC(C)C | C23H28N2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-propylthio)propanoic Acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)SC(C)C | C22H26N2O4S
